US06897231B2
SYNTHESIS OF [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-N-(3-METHOXYPROPYL)CARBOXAMIDE
The title compound was prepared as described in Example 68. To a solution of 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (0.200 g, 0.632 mmol) in pyridine (4 mL) was added 2-methoxypropylamine (0.274 mL, 3.16 mmol). The solution was stirred for 3 h at room temperature. Water (40 mL) was added and the reaction mixture was extracted with ethyl acetate. The combined organic layers were washed with aqueous 1 N hydrochloric acid, dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by preparative HPLC (10-90% acetonitrile/water). The pure fractions were basified with ammonium hydroxide, evaporated at reduced pressure, diluted with water and filtered to give the title compound (0.073 g, 35% yield): 1H NMR (DMSO-d6) δ 13.42 (br s, 1H), 8.60 (t, 1H), 8.53 (s, 1H), 8.07 (AB quartet, 2H), 7.92 (dd, 1H), 7.62 (d, 1H), 7.40 (t, 2H), 3.40 (t, 2H), 3.34 (m, 2H), 3.25 (s, 3H), 1.79 (m, 2H); ES-MS (m/z) 328 [M+1]+.

reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.632 mmol, 0.200 g | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 2-methoxypropylamine | 3.16 mmol, 0.274 mL | COC(CN)C | C4H11NO
reactant | Water | 40 mL | O | H2O
reactant | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | [3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-N-(3-METHOXYPROPYL)CARBOXAMIDE | 0.073 g, 35% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NCCCOC | C18H18FN3O2
